US05210080
1-(2-Hydroxyethyl)-5-aminopyrazole (5 g) was added to acetic anhydride (14.7 ml) under stirring and ice-cooling, and pyridine (6.3 ml) was added thereto. The mixture was stirred for 2 hours at 25° C. The reaction mixture was added to a mixture of ethyl acetate (50 ml) and brine (50 ml). Then, the mixture was adjusted to pH 7.0 with an aqueous solution of sodium bicarbonate. The aqueous layer was extracted with a mixture of ethyl acetate and tetrahydrofuran. The extract was dried over magnesium sulfate. The magnesium sulfate was filtered off, and the filtrate was evaporated under reduced pressure to give 1-(2-acetoxyethyl)-5-acetylaminopyrazole (5.98 g).

reactant | 1-(2-Hydroxyethyl)-5-aminopyrazole | 5 g | OCCN1N=CC=C1N | C5H9N3O
reactant | acetic anhydride | 14.7 ml | C(C)(=O)OC(C)=O | C4H6O3
reactant | pyridine | 6.3 ml | N1=CC=CC=C1 | C5H5N
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | brine | 50 ml | [Cl-].[Na+].O
solvent | ethyl acetate | 50 ml | C(C)(=O)OCC | C4H8O2
product | 1-(2-acetoxyethyl)-5-acetylaminopyrazole | 5.98 g | C(C)(=O)OCCN1N=CC=C1NC(C)=O | C9H13N3O3
